US08623889B2
Step 1: 6-chloro-1,7-naphthyridin-2(1H)-one
To a solution of N,N-diisopropylamine (4.6 mL, 33 mmol) in anhydrous ethyl ether cooled at −78° C. was added n-butyllithium (1.0M solution in hexanes, 22 mL, 36 mmol). After 30 minutes at this temperature, tert-butyl acetate (3.8 g, 33 mmol) was added slowly to the reaction mixture as a solution in anhydrous diethyl ether (10 mL). After another 20 minutes of stirring at −78° C., tert-butyl 6-chloro-4-formylpyridin-3-ylcarbamate (4.0 g, 16 mmol) was slowly added to the mixture as a solution in tetrahydrofuran (10 mL). The reaction mixture was warmed to room temperature and then poured onto ice. The organic layer was separated, dried over sodium sulfate, and evaporated in vacuo to afford a residue that was redissolved in 1,4-dioxane (30 mL), treated with a 5.0M solution of hydrogen chloride in water (30 mL), and heated at 90° C. for 2 hours. The cooled reaction mixture was neutralized by addition of solid sodium bicarbonate, producing a fine white precipitate. Solids were collected via vacuum filtration, washing with water (25 mL) and then tetrahydrofuran (25 mL) to afford the title compound as a white solid (2.3 g, 82%), which was used in the next step without further purification.

reactant | N,N-diisopropylamine | 33 mmol, 4.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 36 mmol, 1.0M, 22 mL | C(CCC)[Li]
reactant | tert-butyl acetate | 33 mmol, 3.8 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | tert-butyl 6-chloro-4-formylpyridin-3-ylcarbamate | 16 mmol, 4.0 g | ClC1=CC(=C(C=N1)NC(OC(C)(C)C)=O)C=O | C11H13ClN2O3
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
product | 6-chloro-1,7-naphthyridin-2(1H)-one | 2.3 g, 82% | ClC=1C=C2C=CC(NC2=CN1)=O | C8H5ClN2O
